*
R1 N037 N001 1
R2 N038 N037 2
R3 N039 N038 3
R4 N040 N039 4
R5 N041 N040 5
R6 N035 N036 1
R7 N034 N035 2
R8 N033 N034 3
R9 N032 N033 4
R10 N001 N032 5
V1 0 N001 SINE(0 10 1k)
R11 0 N041 5
R12 N036 0 1
R13 N027 N001 1
R14 N028 N027 2
R15 N029 N028 3
R16 N030 N029 4
R17 N031 N030 5
R18 N025 N026 1
R19 N024 N025 2
R20 N023 N024 3
R21 N022 N023 4
R22 N001 N022 5
R23 0 N031 5
R24 N026 0 1
R25 N017 N001 1
R26 N018 N017 2
R27 N019 N018 3
R28 N020 N019 4
R29 N021 N020 5
R30 N015 N016 1
R31 N014 N015 2
R32 N013 N014 3
R33 N012 N013 4
R34 N001 N012 5
R35 0 N021 5
R36 N016 0 1
R37 N007 N001 1
R38 N008 N007 2
R39 N009 N008 3
R40 N010 N009 4
R41 N011 N010 5
R42 N005 N006 1
R43 N004 N005 2
R44 N003 N004 3
R45 N002 N003 4
R46 N001 N002 5
R47 0 N011 5
R48 N006 0 1
.tran 0 1ms 0 1us
.backanno
.end
